data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
3028,3385,[CH3:1][C:2]([CH3:3])=[C:4]([CH3:5])[CH3:6].[CH3:7][C:8]#[N+:9][C-:10]([C:11]#[N:12])[C:13]#[N:14]>>[CH3:1][C:2]1([CH3:3])[C:4]([CH3:5])([CH3:6])[C:10]([C:11]#[N:12])([C:13]#[N:14])[N:9]=[C:8]1[CH3:7],water,298.15,20.620521524955844,-30.741338648478884
274,298,[CH3:15][CH:16]=[NH+:17][N-:18][CH3:19].[CH3:1][O:2][CH:3]1[C:4]#[C:5][C:6]([C:7]#[N:8])([C:9]#[N:10])[CH2:11][CH2:12][CH2:13][CH2:14]1>>[CH3:1][O:2][CH:3]1[C:4]2=[C:5]([C:6]([C:7]#[N:8])([C:9]#[N:10])[CH2:11][CH2:12][CH2:13][CH2:14]1)[CH:16]([CH3:15])[NH:17][N:18]2[CH3:19],water,298.15,9.605399628834284,-52.69324610575652
3252,3675,[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[CH:7]=[CH:8]1.[CH3:9][C:10](=[O:11])[CH:12]=[O+:13][C-:14]([CH3:15])[C:16]#[N:17]>>[C:1]1(=[O:2])[CH:3]=[CH:4][C:5](=[O:6])[C@H:7]2[C@@H:8]1[C:14]([CH3:15])([C:16]#[N:17])[O:13][CH:12]2[C:10]([CH3:9])=[O:11],water,298.15,3.790306773323341,-52.09846562017879
93,105,[CH3:6][C:7](=[O:8])[c:9]1[o:10][c:11](=[O:12])[c-:13]([C:14]#[N:15])[n+:16]1[CH3:17].[CH:1]#[C:2][C:3]([CH3:4])=[O:5]>>[CH:1]1=[C:2]([C:3]([CH3:4])=[O:5])[C:13]2([C:14]#[N:15])[C:11](=[O:12])[O:10][C:9]1([C:7]([CH3:6])=[O:8])[N:16]2[CH3:17],water,298.15,24.58679866628377,-10.919319135233248
4615,5261,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH:15]#[N+:16][C-:17]([C:18]([CH3:19])=[O:20])[C:21](=[O:22])[O:23][CH3:24]>>[C:1]1(=[O:2])[C@@:3]2([O:4][CH3:5])[C@@:6]([O:7][CH3:8])([C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14])[C:17]([C:18]([CH3:19])=[O:20])([C:21](=[O:22])[O:23][CH3:24])[N:16]=[CH:15]2,water,298.15,15.81419014829801,-15.55601809818729
3482,3966,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][C:12]([CH3:13])=[O+:14][C-:15]([CH3:16])[C:17]#[N:18]>>[CH2:1]1[C@@H:2]2[C@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[C:12]([CH3:11])([CH3:13])[O:14][C:15]2([CH3:16])[C:17]#[N:18],water,298.15,13.726917296273172,-49.15665545721222
3808,4360,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][O:6][C:7](=[O:8])[C:9](=[O+:10][CH-:11][C:12]([CH3:13])=[O:14])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[CH:11]([C:12]([CH3:13])=[O:14])[O:10][C:9]1([C:7]([O:6][CH3:5])=[O:8])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,8.702267220291334,-45.9972969489661
2718,3018,[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]([CH3:7])=[O:8])[C:9]#[C:10][C:11]([C:12]([F:13])([F:14])[F:15])([C:16]([F:17])([F:18])[F:19])[CH2:20][CH2:21][CH2:22][CH2:23]1.[N:24]#[C:25][C:26](=[O+:27][C-:28]([C:29]#[N:30])[C:31]#[N:32])[c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1>>[CH3:1][O:2][C:3](=[O:4])[C:5]1([C:6]([CH3:7])=[O:8])[C:9]2=[C:10]([C:11]([C:12]([F:13])([F:14])[F:15])([C:16]([F:17])([F:18])[F:19])[CH2:20][CH2:21][CH2:22][CH2:23]1)[C:26]([C:25]#[N:24])([c:33]1[cH:34][cH:35][cH:36][cH:37][cH:38]1)[O:27][C:28]2([C:29]#[N:30])[C:31]#[N:32],water,298.15,18.248524718567342,-33.99976733330833
5086,5774,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][C:12](=[O:13])[C:14]([c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1)=[N+:21]([CH3:22])[CH-:23][c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1>>[CH2:1]1[C@H:2]2[C@@H:3]([N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10])[CH:23]([c:24]1[cH:25][cH:26][cH:27][cH:28][cH:29]1)[N:21]([CH3:22])[C:14]2([C:12]([CH3:11])=[O:13])[c:15]1[cH:16][cH:17][cH:18][cH:19][cH:20]1,water,298.15,37.78801892297712,-14.548977298746856
2177,2415,[CH3:14][NH:15][C:16](=[O:17])[C:18](=[NH+:19][N-:20][c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([O:7][CH3:8])[CH:9]2[CH:10]=[CH:11][CH:12]1[O:13]2>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([O:7][CH3:8])[CH:9]2[CH:10]3[CH:11]([CH:12]1[O:13]2)[N:20]([c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[NH:19][C:18]3([C:16]([NH:15][CH3:14])=[O:17])[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1,water,298.15,14.922729540016944,-32.48636954081319
2089,2317,[CH3:16][O:17][C:18](=[O:19])[c:20]1[nH+:21][c-:22]([C:23](=[O:24])[O:25][CH3:26])[c:27](=[O:28])[o:29]1.[CH3:1][NH:2][C:3](=[O:4])[C:5]1([Cl:6])[C:7]#[C:8][C:9]([F:10])([F:11])[CH2:12][CH2:13][CH2:14][CH2:15]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1([Cl:6])[C:7]2=[C:8]([C:9]([F:10])([F:11])[CH2:12][CH2:13][CH2:14][CH2:15]1)[C:22]1([C:23](=[O:24])[O:25][CH3:26])[NH:21][C:20]2([C:18]([O:17][CH3:16])=[O:19])[O:29][C:27]1=[O:28],water,298.15,19.420575629524123,-13.394414967502277
3200,3613,[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9].[CH:10]#[N+:11][N-:12][C:13](=[O:14])[O:15][CH3:16]>>[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]1([CH3:8])[CH2:9][CH:10]=[N:11][N:12]1[C:13](=[O:14])[O:15][CH3:16],water,298.15,10.78415284381262,-40.526344336407256
